US05635510
4.1 Synthesis of [3-(3,4-dichloro-phenyl)-1-(2-methoxybenzoyl)-3-(2-hydroxy-ethyl)-pyrrolidine (No.027F103)
3-(3,4-Dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine, (218 mg, 0.83 mmol) was dissolved in dichloromethane at -78° C. and treated with 4-methylmorpholine (0.19 mL, 1.73 mmol, 2 eq.) and 2-methoxybenzoyl chloride (155 mg, 0.84 mmol, 1 eq.) in dichloromethane (3×1 mL). The solution was allowed to warm to 0° C. and stir for 4.5 hours. The solution was washed with 1N HCl and 5% sodium bicarbonate and the organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel (30 g) with a gradient of 50% ethyl acetate in hexane to 6% methanol in dichloromethane to give 202 mg (60%) of the title compound.

reactant | 3-(3,4-Dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine | 0.83 mmol, 218 mg | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
reactant | 4-methylmorpholine | 1.73 mmol, 0.19 mL, 2 eq. | CN1CCOCC1 | C5H11NO
reactant | 2-methoxybenzoyl chloride | 0.84 mmol, 155 mg, 1 eq. | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 3-(3,4-dichloro-phenyl)-1-(2-methoxybenzoyl)-3-(2-hydroxy-ethyl)-pyrrolidine | 202 mg, 60% | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)CCO | C20H21Cl2NO3
